US05780482
A mixture of ethyl 4-chloro-6-ethoxy-7-methyl-1,8-naphthyridine-3-carboxylate (2.4 g), 5-amino-2-ethoxypyridine (1.15 g) and IMS (50 ml) was boiled under reflux for 1.5 hours. The mixture was cooled and filtered to give ethyl 6-ethoxy-4-(2-ethoxy-5-pyridylamino)-7-methyl-1,8-naphthyridine-3-carboxylate hydrochloride, m.p. 221°-223° C. Active (1/1) at 30 mg/kg.

reactant | ethyl 4-chloro-6-ethoxy-7-methyl-1,8-naphthyridine-3-carboxylate | 2.4 g | ClC1=C(C=NC2=NC(=C(C=C12)OCC)C)C(=O)OCC | C14H15ClN2O3
reactant | 5-amino-2-ethoxypyridine | 1.15 g | NC=1C=CC(=NC1)OCC | C7H10N2O
product | ethyl 6-ethoxy-4-(2-ethoxy-5-pyridylamino)-7-methyl-1,8-naphthyridine-3-carboxylate hydrochloride | Cl.C(C)OC=1C=C2C(=C(C=NC2=NC1C)C(=O)OCC)NC=1C=CC(=NC1)OCC | InChI=1S/C21H24N4O4.ClH/c1-5-27-17-10-15-19(25-14-8-9-18(22-11-14)28-6-2)16(21(26)29-7-3)12-23-20(15)24-13(17)4;/h8-12H,5-7H2,1-4H3,(H,23,24,25);1H
